US06515179B2
A 28% sodium methoxide/methanol solution (0.42 ml; 1.49 molar equivalents) was added to a solution of N-(2-nitrobenzenesulfonyl)benzhydrylamine (503.3 mg) in dry tetrahydrofuran (5 ml) at room temperature in an argon atmosphere, followed by stirring for 2 hours at room temperature. When water (8.5 ml), 3 N hydrochloric acid (1.5 ml) and ether (5 ml) were added to the concentrate obtained by removing the reaction solvents by evaporation under reduced pressure, an insoluble solid was observed. Accordingly, 2 N sulfuric acid (1.5 ml) and ether (10 ml) were further added. The insoluble solid remained, so that it was separated by filtration. Solution separation was conducted for the filtrate, and the organic layer was extracted again with a mixed solution of 2 N sulfuric acid (1 ml)/water (9 ml). Five normal sodium hydroxide (4 ml) was added to the resulting aqueous layer, which was combined with the solid previously separated by filtration, and extraction was conducted four times with ether (10 ml), followed by drying over sodium sulfate, filtration and concentration. Hexane (15 ml) was added to the concentrate containing the solid, and insoluble matter was filtered and washed with hexane (10 ml). The resulting filtrate was concentrated and dried under vacuum to obtain benzhydrylamine (164.3 mg; yield: 65.6%). Furthermore, the ether layer remained in the preceding extraction with water was dried over sodium sulfate and filtered, and combined with the filtered solid obtained after above-described washing with hexane, followed by concentration. Hexane (15 ml) was added to the concentrate containing the solid, and the solid was filtered and washed with hexane (10 ml), followed by drying under vacuum to recover unreacted materials (162.3 mg; yield: 32.2%).

reactant | sodium methoxide methanol | 1.49 molar, 0.42 ml | C[O-].[Na+].CO
reactant | N-(2-nitrobenzenesulfonyl)benzhydrylamine | 503.3 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
reactant | water | 8.5 ml | O | H2O
reactant | hydrochloric acid | 3 N, 1.5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 5 ml | CCOCC | C4H10O
product | benzhydrylamine | 164.3 mg, yield: 65.6% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
